US08026370B2
3-amino-1-phenyl-1H-pyrazole-4-carboxylic acid ethyl ester
2-(Ethoxymethylene)-2-cyanoacetic acid ethyl ester (78.2 g) and phenylhydrazine (50.0 g) were dissolved in ethanol (500 mL), and the mixture was refluxed for 3 hr. After cooling, the reaction mixture was concentrated under reduced pressure. Hexane (500 mL) was added, to the residue, and the residue was washed by suspending and filtered. The obtained solid was vacuum dried to give the title compound (86.0 g) as a white solid.

reactant | 2-(Ethoxymethylene)-2-cyanoacetic acid ethyl ester | 78.2 g | C(C)OC(C(C#N)=COCC)=O | C8H11NO3
reactant | phenylhydrazine | 50.0 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 3-amino-1-phenyl-1H-pyrazole-4-carboxylic acid ethyl ester | 86.0 g | C(C)OC(=O)C=1C(=NN(C1)C1=CC=CC=C1)N | C12H13N3O2
